US06846835B2
Synthesis of t-butyl 4-(2-hydroxyethyl)tetrahydropyridine-1(2H)-carboxylate
To a solution of 263 mg of t-butyl 4-(2-ethoxy-2-oxoethyl)-tetrahydropyridine-1(2H)-carboxylate in 15 ml of tetrahydrofuran, 100 mg of lithiumaluminum hydride was added under cooling with ice, followed by 20 minutes' stirring at the same temperature. To the reaction liquid sodium sulfate decahydrate was added, stirred for 30 minutes and filtered with Celite. Distilling the solvent off under reduced pressure, 207 mg of the title compound was obtained.

reactant | t-butyl 4-(2-ethoxy-2-oxoethyl)-tetrahydropyridine-1(2H)-carboxylate | 263 mg | C(C)OC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H25NO4
reactant | lithiumaluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | t-butyl 4-(2-hydroxyethyl)tetrahydropyridine-1(2H)-carboxylate | 207 mg | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
